US04260755
3-(Hydroxymethyl)-6-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 7.76 g. of 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine, 6.66 g. of hydroxyacethydrazide and 200 ml. of n-butyl alcohol is heated at reflux temperature for 18 hours. The mixture is evaporated in vacuo and the residue is triturated with dichloromethane-hexane. The mixture is filtered and the solid is recrystallized from ethyl acetate to give the product of the Example as off-white crystals, m.p. 224°-226° C.

reactant | 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine | ClC=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2
reactant | hydroxyacethydrazide | OCC(=O)NN | C2H6N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 3-(Hydroxymethyl)-6-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[4,3-b]pyridazine | OCC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C13H9F3N4O
